US04791124
A stirred suspension of 2-amino-1-(5-methylthienyl)ethanone hydrochloride (3.0 g of a mixture containing approximately 60% 2-amino-1-(5-methylthienyl)ethanone hydrochloride) in methylene chloride (100 ml) was cooled in an ice bath. To this cold mixture was added 4-(trifluoromethyl)benzoyl chloride (2.8 g, 0.013 mole), followed by the slow addition of a 2N solution of sodium hydroxide (9.4 ml). After complete addition, the mixture was stirred at room temperature for three days. The mixture was washed first with an aqueous 5% hydrochloric acid solution, followed by water. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure, yielding 3.9 g of N-[2-(5-methylthienyl)-2-oxoethyl]-4-trifluoromethylbenzamide as a solid. A small portion was recrystallized from ethanol for analysis, m.p. 182°-183° C.

reactant | 2-amino-1-(5-methylthienyl)ethanone hydrochloride | Cl.NCC(=O)C=1SC(=CC1)C
reactant | 4-(trifluoromethyl)benzoyl chloride | 0.013 mole, 2.8 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | sodium hydroxide | 9.4 ml | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(5-methylthienyl)-2-oxoethyl]-4-trifluoromethylbenzamide | 3.9 g | CC1=CC=C(S1)C(CNC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C15H12F3NO2S
